US06054605
3-chloro-2-fluoro-6-trifluoromethylbenzoic acid (Compound No. 12)
77.0 g of 3-fluoro-4-chlorobenzotrifluoride was dissolved in 750 ml of dried tetrahydrofuran, and to the solution, 250 ml of hexane solution of n-butyl lithium (1.6 mol/l) was added dropwise over 15 minutes at -78° C. under a nitrogen atmosphere. After stirring the solution at -78° C. for 2 hours. 50 g of dry ice was gradually added to the solution at the same temperature. After elevating the temperature of the solution up to room temperature, 500 ml of ice water was added to the solution to separate the resulting solution. While cooling down the aqueous layer, the layer was adjusted to a pH value of 1 with concentrated hydrochloric acid. The aqueous layer was then extracted with ether, washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled under reduced pressure, and the oily residue obtained was crystalized with n-hexane, followed by a filtration and then dried to obtain 88.4 g of the title compound(mp. 92-93° C.).

reactant | 3-fluoro-4-chlorobenzotrifluoride | 77.0 g | FC=1C=C(C=CC1Cl)C(F)(F)F | C7H3ClF4
reactant | hexane | 250 ml | CCCCCC | C6H14
reactant | n-butyl lithium | 1.6 mol/l | C(CCC)[Li]
reactant | dry ice | 50 g | C(=O)=O | CO2
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
product | 3-chloro-2-fluoro-6-trifluoromethylbenzoic acid | 88.4 g | ClC=1C(=C(C(=O)O)C(=CC1)C(F)(F)F)F | C8H3ClF4O2
